US07851220B2
Approximately 10.3 g N′-(1-ethyl-2,2-dimethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester was mixed with 4.14 g (3.9 mmol) 10% Pd/C in CH2Cl2 under an atmosphere of hydrogen in a Parr shaker for four hours. The reaction was monitored by TLC (12 indicator), and the crude product was twice chromatographed using 10% ether in hexane to yield N′-(1-ethyl-2,2-dimethyl-propyl)-hydrazinecarboxylic acid tert-butyl ester. 1H NMR (CDCl3, 500 MHz) δ (ppm): 6.05 (br, 1H), 3.9 (br, 1H)), 2.45 (m, 1H), 1.6 (m, 1H), 1.5 (s, 9H), 1.25 (m, 1H), 1.1 (t, 3H), 0.92 (s, 9H).

reactant | N′-(1-ethyl-2,2-dimethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester | 10.3 g | C(C)(C)(C)OC(=O)NN=C(C(C)(C)C)CC | C12H24N2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 3.9 mmol, 4.14 g | [Pd] | Pd
product | N′-(1-ethyl-2,2-dimethyl-propyl)-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NNC(C(C)(C)C)CC | C12H26N2O2
